US06593330B2
Step 1: 2-Chloro-6-(2-furyl)pyrazine
1,2-Dimethoxyethane (130 mL) was added to a mixture of tetrakis(triphenylphosphine)palladium (0) (0.93 g, 0.80 mmol) and 2,6-dichloropyrazine (2.55 g, 17.1 mmol). After 5 min of stirring at room temperature, furan-2-boronic acid (1.91 g, 17.1 mmol) followed by aqueous Na2CO3 (30 mL; 2 M) were added. The mixture was heated at reflux for 1 h [TLC monitoring by SiO2/n-hexane/ethyl acetate (90:10)]. The layers were separated and the light brownish water layer was extracted with dichloromethane (2×200 mL). The combined organic layers were dried (K2CO3), filtered and concentrated in vacuo. The brown-yellow oil obtained was purified by silica gel chromatography (18.5×4 cm) eluting with n-hexane/ethyl acetate (90:10). This furnished 1.47 g (48%) of the title compound as a light yellow solid. HRMS m/z calcd for C8H5ClN2O (M)+ 180.0090, found 180.0092. Anal. (C8H5ClN2O) C, H, N.

reactant | 2,6-dichloropyrazine | 17.1 mmol, 2.55 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | furan-2-boronic acid | 17.1 mmol, 1.91 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | Na2CO3 | 2 M, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.80 mmol, 0.93 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-Dimethoxyethane | 130 mL | COCCOC | C4H10O2
product | 2-Chloro-6-(2-furyl)pyrazine | ClC1=NC(=CN=C1)C=1OC=CC1 | C8H5ClN2O
